US04036631
1,3-Dimethyl-4-chloro-4-(2-nitro-5-methylbenzoyl)-5-pyrazolone
To a suspension of 2.65 g of 1,3-dimethyl-4-(2-nitro-5-methylbenzoyl)-5-pyrazolone in 20 ml of dry benzene was added 1.62 g of sulfuryl chloride and the mixture was stirred at room temperature for 4 hours. After completion of the reaction, the reaction mixture was treated in the same manner as in the Example 1 to give 2.0 g of the desired product melting at 110° - 111° C. (Yield 64.72%)

reactant | 1,3-dimethyl-4-(2-nitro-5-methylbenzoyl)-5-pyrazolone | 2.65 g | CN1NC(=C(C1=O)C(C1=C(C=CC(=C1)C)[N+](=O)[O-])=O)C | C13H13N3O4
reactant | sulfuryl chloride | 1.62 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1,3-Dimethyl-4-chloro-4-(2-nitro-5-methylbenzoyl)-5-pyrazolone | 2.0 g, Yield 64.72% | CN1N=C(C(C1=O)(C(C1=C(C=CC(=C1)C)[N+](=O)[O-])=O)Cl)C | C13H12ClN3O4
